US08383608B2
Step 2: (S)-[1-(4-Cyano-3-trifluoromethylphenyl)-2,5-dioxo-3-methyl-4-phenylimidazolidin-4-yl]methoxy-3-methyl-1-oxobutan-2-aminium chloride
3 mL of trifluoroacetic acid are added to a solution of 0.65 g of (2S)-2-[(1,1-dimethylethoxy)carbonylamino]-3-methylbutanoic acid (S)-[1-(4-cyano-3-trifluoromethylphenyl)-2,5-dioxo-3-methyl-4-phenylimidazolidin-4-yl]methyl ester in 30 mL of dichloromethane. The mixture is stirred at room temperature for 5 hours, 20 mL of toluene are added then the solvent is evaporated to dryness. The crude product is diluted with a saturated aqueous sodium bicarbonate solution and extracted with ethyl acetate. The organic layer is dried over magnesium sulfate, filtered and evaporated. The crude product is dissolved in 120 mL of dichloromethane/ethyl ether mixture (10/90) and 0.75 mL of a 2M hydrogen chloride solution in ethyl ether is added. After filtration, the desired compound is obtained

reactant | trifluoroacetic acid | 3 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | (2S)-2-[(1,1-dimethylethoxy)carbonylamino]-3-methylbutanoic acid (S)-[1-(4-cyano-3-trifluoromethylphenyl)-2,5-dioxo-3-methyl-4-phenylimidazolidin-4-yl]methyl ester | 0.65 g | C(#N)C1=C(C=C(C=C1)N1C(N([C@@](C1=O)(C1=CC=CC=C1)COC([C@H](C(C)C)NC(=O)OC(C)(C)C)=O)C)=O)C(F)(F)F | C29H31F3N4O6
reactant | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
reactant | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | (S)-[1-(4-Cyano-3-trifluoromethylphenyl)-2,5-dioxo-3-methyl-4-phenylimidazolidin-4-yl]methoxy-3-methyl-1-oxobutan-2-aminium chloride | [Cl-].C(#N)C1=C(C=C(C=C1)N1C(N(C(C1=O)(C1=CC=CC=C1)COC([C@H](C(C)C)[NH3+])=O)C)=O)C(F)(F)F | InChI=1S/C24H23F3N4O4.ClH/c1-14(2)19(29)20(32)35-13-23(16-7-5-4-6-8-16)21(33)31(22(34)30(23)3)17-10-9-15(12-28)18(11-17)24(25,26)27;/h4-11,14,19H,13,29H2,1-3H3;1H/t19-,23?;/m0./s1
